US04145536
(E)-α-(3,4,5-trimethoxyphenyl) ethylideneisopropylidene succinic anhydride (4 parts), prepared as in Example 3, in toluene (40 parts by volume), and aniline (1 part) were heated (12 hours) at 70°. Petrol was added and the liberated succinamic acid separated. The dry acid (1.8 parts) was dissolved in acetyl chloride (40 parts by volume) boiled for 2 hours and the solvent removed. Crystallization of the product from a toluene/petrol mixture gave (E)-α-(3,4,5-trimethoxyphenyl) ethylideneisopropylidene-N-phenylsuccinimide as pale yellow needles, melting point 169.5°. The compound shows similar photochromic properties to the corresponding (E)-anhydride.

reactant | (E)-α-(3,4,5-trimethoxyphenyl) ethylideneisopropylidene succinic anhydride | COC=1C=C(C=C(C1OC)OC)\C(\C)=C\1/C(C(=O)OC1=O)=C(C)C | C18H20O6
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-α-(3,4,5-trimethoxyphenyl) ethylideneisopropylidene-N-phenylsuccinimide | COC=1C=C(C=C(C1OC)OC)\C(\C)=C\1/C(C(=O)N(C1=O)C1=CC=CC=C1)=C(C)C | C24H25NO5
